US07435837B2
Treatment of (±)-1-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine (1.54 g, 5.17 mmol) with diisopropylethylamine (1.02 g, 7.76 mmol) and benzyl chloroformate (0.971 g, 5.69 mmol) generally according to the procedure described for Intermediate 12 gave 2.02 g (98%) of (±)-benzyl {[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate as a colorless oil. Anal. calcd. for C23H19F2NO3: C, 69.87; H, 4.84; N, 3.54. Found C, 69.54; H, 4.87; N, 3.31.

reactant | (±)-1-[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methanamine | 5.17 mmol, 1.54 g | FC1=C(C(=CC=C1)F)C1=CC=CC=2CC(OC21)CN | C15H13F2NO
reactant | diisopropylethylamine | 7.76 mmol, 1.02 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 5.69 mmol, 0.971 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl {[7-(2,6-difluorophenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl}carbamate | 2.02 g, 98% | FC1=C(C(=CC=C1)F)C1=CC=CC=2CC(OC21)CNC(OCC2=CC=CC=C2)=O | C23H19F2NO3
